US05017730
In a glass reactor, a mixture of 600 ml of toluene and 22.5 g of trifluoromethanesulfonic acid were kept heated at 110° C., and, while stirring the mixture, 312.8 g of trifluoromethylbenzoyl chloride was dropped into the reactor so as to spend 5 hr in dropping the entire quantity. After that the heating and stirring were continued for 5 hr, and then 1.2 liter of hexane was added to cause precipitation of 4-trifluoromethyl-4'-methylbenzophenone in the form of platy crystals. The cystalline precipitate was collected by filtration, washed and dried. The dried product weighed 276 g (69% yield). From the filtrate, 111 g (28% yield) of 4-trifluoromethyl-2'-methylbenzophenone was obtained.

reactant | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
reactant | trifluoromethanesulfonic acid | 22.5 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | trifluoromethylbenzoyl chloride | 312.8 g | FC(F)(F)C1=C(C(=O)Cl)C=CC=C1 | C8H4ClF3O
solvent | hexane | 1.2 liter | CCCCCC | C6H14
product | 4-trifluoromethyl-2'-methylbenzophenone | 111 g, 28% yield | FC(C1=CC=C(C(=O)C2=C(C=CC=C2)C)C=C1)(F)F | C15H11F3O
